US09278950B2
Step 2. Methyl [(3R,4S,5S)-3-amino-1-(3-{[(3-amino-7-morpholin-4-ylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidin-4-yl]carbamate
To a solution of tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate (30 mg, 0.039 mmol) in MeOH (2.0 mL) and THF (1.0 mL), 10% Pd on carbon (6.9 mg) was added. The reaction mixture was deoxygenated under reduced pressure and hydrogen was introduced via a balloon. The reaction mixture was stirred at room temperature under hydrogen for 90 min. The mixture was then filtered and concentrated under reduced pressure. The resulting residue was dissolved in DCM (2 mL), and TFA (2 mL) was added. The mixture was stirred at room temperature for 1 h, then concentrated under reduced pressure. The residue was purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a yellow powder (11 mg, 52%). LCMS calc. for C27H35N8O4 (M+H)+: m/z=535.3. Found: 535.4.

reactant | tert-butyl methyl [(3R,4S,5S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidine-3,4-diyl]biscarbamate | 0.039 mmol, 30 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)NC(OC)=O)NC(OC(C)(C)C)=O | C40H48N8O8
solvent | MeOH | 2.0 mL | CO | CH4O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Pd on carbon | 6.9 mg | [Pd] | Pd
product | Methyl [(3R,4S,5S)-3-amino-1-(3-{[(3-amino-7-morpholin-4-ylquinolin-2-yl)carbonyl]amino}pyridin-4-yl)-5-methylpiperidin-4-yl]carbamate | 11 mg, 52% | N[C@@H]1CN(C[C@@H]([C@@H]1NC(OC)=O)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1N)N1CCOCC1 | C27H34N8O4
